US07425634B2
(9h) 2-(((4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole
A tetrahydrofuran (20 ml) solution of the (4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methanol (630 mg, 2.37 mmol) obtained in the step (9g) and triethylamine (0.66 ml, 4.74 mmol) was stirred at −10° C. After 10 minutes, methanesulfonyl chloride (275 μl, 3.56 mmol) was added at the same temperature and the resultant mixture was stirred in the same conditions for 30 minutes. To the reaction mixture, a saturated aqueous solution of sodium hydrogen carbonate was poured. The reaction mixture was extracted with ethyl acetate twice and organic layers were combined, washed with a saturated saline solution, dried over anhydrous sodium sulfate, filtered and concentrated. Dichloromethane (30 ml) was added to the residue to make a solution, and thereafter, 2-mercaptobenzimidazole (354 mg, 2.36 mmol) was added at room temperature. Furthermore, triethylamine (0.493 ml, 3.54 mmol) was added, and additionally, methanol was added until 2-mercaptobenzimidazole was dissolved. After the reaction mixture was stirred at room temperature for 2 hours, NH silica gel was added to the reaction mixture, which was then concentrated. The residue was subjected to silica gel column chromatography (elution solvent: heptane/ethyl acetate=1/1, ethyl acetate) to obtain the title compound (690 mg, yield: 73.6%) as a white solid.

reactant | (4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methanol | 2.37 mmol, 630 mg | C1CCC12OCC(CO2)OC2=C(C(=NC=C2)CO)C | C14H19NO4
reactant | triethylamine | 4.74 mmol, 0.66 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.56 mmol, 275 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 2-mercaptobenzimidazole | 2.36 mmol, 354 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | triethylamine | 3.54 mmol, 0.493 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(((4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 690 mg, yield: 73.6% | C1CCC12OCC(CO2)OC2=C(C(=NC=C2)CSC2=NC1=C(N2)C=CC=C1)C | C21H23N3O3S
